US07256206B2
To a suspension of 1-[4-(3-amino-4-hydroxy-3-hydroxymethyl-butyl)-phenyl]-ethanone (1 mmol) in anhydrous dichloroethane (2 mL) is added triethylorthoacetate (1.1 mmol) and acetic acid (0.05 mmol). The resulting mixture is heated at 80° C. for 12 hours. After concentration, the residue is purified by flash column chromatography (EtOAc) to give 1-{4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenyl}-ethanone as an oil; MS: (ES+): 262.1 (M+1)+.

reactant | 1-[4-(3-amino-4-hydroxy-3-hydroxymethyl-butyl)-phenyl]-ethanone | 1 mmol | NC(CCC1=CC=C(C=C1)C(C)=O)(CO)CO | C13H19NO3
reactant | triethylorthoacetate | 1.1 mmol | C(C)C(C([O-])([O-])[O-])(CC)CC
reactant | acetic acid | 0.05 mmol | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 1-{4-[2-(4-hydroxymethyl-2-methyl-4,5-dihydro-oxazol-4-yl)-ethyl]-phenyl}-ethanone | OCC1(N=C(OC1)C)CCC1=CC=C(C=C1)C(C)=O | C15H19NO3
